US05459152
Step 2. Preparation of 6-(3-pyridinyl)indole
The desired compound was prepared according to the method of Example 25, step 1, except substituting 6-indolylboronic acid, prepared as in step 1 for 4-methoxyphenylboronic acid, and 3-bromopyridine for 1-tert-butoxycarbonyl-6-bromoindole.

reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 3-bromopyridine | BrC=1C=NC=CC1 | C5H4BrN
reactant | 1-tert-butoxycarbonyl-6-bromoindole | C(C)(C)(C)OC(=O)N1C=CC2=CC=C(C=C12)Br | C13H14BrNO2
product | 6-(3-pyridinyl)indole | N1=CC(=CC=C1)C1=CC=C2C=CNC2=C1 | C13H10N2
